US04293694
12.6 g of p-fluoroaniline was dissolved in 100 ml of ethanol and a catalytic amount of p-toluenesulfonic acid was added thereto. 9.8 g of cyclohexanone was then added dropwise to the mixture at room temperature. After completion of the addition, the mixture was stirred at room temperature for one hour and concentrated under reduced pressure. Dilute sulfuric acid prepared from 190 ml of water and 20 ml of concentrated sulfuric acid was added to the residue and the mixture was heated at 110° C. for 15 minutes on an oil bath to precipitate light orange crystals. The crystals thus formed were filtered, washed 3 times with water and dried to obtain 17.4 g of 6-fluoro-1,2,3,4-tetrahydrocarbazol which was identified by NMR spectrum.

reactant | p-fluoroaniline | 12.6 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | cyclohexanone | 9.8 g | C1(CCCCC1)=O | C6H10O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-fluoro-1,2,3,4-tetrahydrocarbazol | 17.4 g | FC=1C=C2C=3CCCCC3NC2=CC1 | C12H12FN
